Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
erythromycin base
 
Attending: ___
 
Chief Complaint:
Right sided flank pain.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F history of dementia, A&Ox1 at baseline, DNR/DNI status 
post fall.
Transferred from ___ for multiple rib fractures. Is 
from an assisted living facility and got up to go to the 
bathroom last night with help from her home health aide, but she 
went limp and fell.
 
Past Medical History:
PMH: COPD, Dementia (AOx1 at baseline; will go 24hrs without 
opening eyes or moving sometimes), HTN  
PSH:  

 
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Temp: 97.6 HR: 70 BP: 165/80 Resp: 16 O(2)Sat: 96 Normal
Constitutional:   Constitutional: No fever, no
chills
Head / Eyes: No diplopia
ENT: no earache
Resp: No cough
Cards: No chest pain
Abd: No abdominal pain
Flank: No dysuria
Skin: No rash
Ext: No back pain
Neuro: No headache
Psych: No depression

Discharge Physical Exam:

 
Pertinent Results:
___ 06:35AM BLOOD WBC-7.8 RBC-4.15 Hgb-10.6* Hct-34.4 
MCV-83 MCH-25.5* MCHC-30.8* RDW-15.6* RDWSD-47.1* Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-106* UreaN-11 Creat-0.8 Na-136 
K-3.9 Cl-96 HCO3-28 AnGap-16

___ CXR:
Re- demonstration of displaced right fifth through ninth 
posterior rib 
fractures.  No pneumothorax. 
 
___ CT Head:
Marked cerebral atrophy and chronic small vessel ischemic 
disease without 
evidence of acute intracranial hemorrhage.  Please note that MRI 
is more 
sensitive for detection of acute infarction. 

___ CT C-Spine:
1. No fractures. 
2. Moderate cervical spondylosis with mild to moderate bilateral 
neural 
foraminal narrowing, worse at C4-5.  Mild anterolisthesis of C3 
on C4 and C4 on C5, most likely degenerative in etiology. 

___ Xray Right Humerus:
No acute fracture

___ Xray Right Shoulder:
No acute fracture
 
Brief Hospital Course:
Ms. ___ is an ___ yo F admitted to the Acute Care Trauma 
Surgery service on ___ after an assisted fall. She had 
imaging that revealed right sided rib fractures ___. CT head and 
C-spine were negative for acute injuries. She was admitted to 
the floor for pain control and oxygenation monitoring. 

On HD1 tertiary exam was completed and revealed no new injuries. 
Her pain was well controlled on oral medications. Mental status 
remained at baseline. She remained stable from a cardiopulmonary 
standpoint, vital signs were routinely monitored. She tolerated 
a regular diet without difficulty. She was incontinent of urine 
which is her baseline status. Physical therapy evaluated her and 
recommended discharge back to assisted living and family agreed 
with plan.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet 
and pain was well controlled.  The patient received discharge 
teaching and follow-up instructions. Written instructions were 
given to the assisted living facility. 
 
Medications on Admission:
Citalopram 20 mg PO DAILY  
Docusate Sodium 100 mg PO BID  
Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
Metoprolol Tartrate 50 mg PO DAILY  
Omeprazole 20 mg PO  
Advair 100/50
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4 grams in 24 hours.  
2.  TraMADol ___ mg PO Q6H:PRN pain 
Take lowest effective dose.   
3.  Citalopram 20 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
6.  Metoprolol Tartrate 50 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right rib fractures ___

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery on ___ after an 
assisted fall. You had xray imaging that showed right sided rib 
fractures ___. You were admitted to the hospital for pain 
control and close respiratory monitoring. You remained stable 
and are now ready to be discharged to home to continue your 
recovery.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___